US09388440B2
2 gms of 5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoic acid methyl ester was dissolved in 20 ml of toluene and stirred at room temperature for 5-20 minutes. To the reaction mass 2.39 ml of N,O-Bis-(trimethylsilyl)-acetamide was added and temperature was raised to 40-60° C. To this 0.04 gms of Tetra butyl ammonium fluoride was added and reaction was monitored by TLC. Water was added and organic fraction was distilled to get 1.5 gms of 3-[3-Benzyloxy-3-(4-fluoro-phenyl)-propyl]-4-(4-benzyloxy-phenyl)-1-(4-fluoro-phenyl)-azetidin-2-one.

reactant | 5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoic acid methyl ester | 2 gms | COC(C(CCC(C1=CC=C(C=C1)F)OCC1=CC=CC=C1)C(NC1=CC=C(C=C1)F)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C39H37F2NO4
reactant | N,O-Bis-(trimethylsilyl)-acetamide | 2.39 ml | CC(=N[Si](C)(C)C)O[Si](C)(C)C | C8H21NOSi2
reactant | Tetra butyl ammonium fluoride | 0.04 gms | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[3-Benzyloxy-3-(4-fluoro-phenyl)-propyl]-4-(4-benzyloxy-phenyl)-1-(4-fluoro-phenyl)-azetidin-2-one | 1.5 gms | C(C1=CC=CC=C1)OC(CCC1C(N(C1C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C38H33F2NO3
